US07842685B2
Synthesis of 3-(5-(5-(1-phenylcyclopropyl)[1,3]thiazolo[5,4-b]pyridin-2-yl)-1,3-dihydro-2H-isoindol-2-yl)propanoic acid
Methyl 3-(5-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)isoindolin-2-yl)propanoate (42 mg, 0.092 mmol) was dissolved in THF (0.738 mL) and water (0.184 mL) before lithium hydroxide monohydrate (2.56 μL, 0.092 mmol) was added and stirred at ambient temperature for 2 h. The reaction mixture was concentrated, acidified with 1 N HCl, filtered, washed with water, and dried in a vacuum oven to give the title compound. MS (ESI) m/z: Calculated: 441.2; Observed: 442.2 (M++H).

reactant | Methyl 3-(5-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)isoindolin-2-yl)propanoate | 0.092 mmol, 42 mg | C1(=CC=CC=C1)C1(CC1)C1=CC=C2C(=N1)SC(=N2)C=2C=C1CN(CC1=CC2)CCC(=O)OC | C27H25N3O2S
reactant | water | 0.184 mL | O | H2O
reactant | lithium hydroxide monohydrate | 0.092 mmol, 2.56 μL | O.[OH-].[Li+]
solvent | THF | 0.738 mL | C1CCOC1 | C4H8O
product | 3-(5-(5-(1-phenylcyclopropyl)[1,3]thiazolo[5,4-b]pyridin-2-yl)-1,3-dihydro-2H-isoindol-2-yl)propanoic acid | C1(=CC=CC=C1)C1(CC1)C1=CC=C2C(=N1)SC(=N2)C=2C=C1CN(CC1=CC2)CCC(=O)O | C26H23N3O2S
